data/mechanism_extracts/JOC/10.1021_acs.joc.3c01310.json
{"doi": "10.1021_acs.joc.3c01310", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical radical cascade trifluoromethylation/sulfonylation-cyclization of N-allylamides with CF3SO2Na or arylsulfonyl hydrazines to access trifluoromethylated or sulfonylated 4,5-dihydrooxazoles.", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "direct_SET", "cation_initiated"], "electrochemical_role": "Anodic single-electron oxidation of CF3SO2- to CF3SO2 radical (which loses SO2 to give CF3 radical); subsequent second anodic SET oxidizes the alkyl radical intermediate I to cation II. At the cathode, water is reduced to H2 and OH-.", "key_intermediates": [{"name": "CF3SO2 radical (from anodic oxidation of triflinate)", "smiles": "[O]S(=O)C(F)(F)F", "role": "transient"}, {"name": "CF3 radical (after SO2 extrusion)", "smiles": "[C](F)(F)F", "role": "reactive"}, {"name": "Carbon-centered radical I (CF3 addition adduct to allylamide alkene)", "smiles": null, "role": "reactive"}, {"name": "Benzylic/tertiary carbocation II (after second anodic SET)", "smiles": null, "role": "reactive"}, {"name": "Dihydrooxazole 3a (product after intramolecular O-cyclization and deprotonation)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes CF3SO2- to CF3SO2 radical, which loses SO2 to give CF3 radical; CF3 radical adds regioselectively to the alkene of the N-allylamide to form C-radical I, which is oxidized at the anode a second time to carbocation II; K2CO3-assisted intramolecular attack of the amide oxygen on II with loss of H+ delivers the dihydrooxazole 3a. The cathode reduces water to H2 and hydroxide.", "rate_determining_step": null, "probe_reagents": [{"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "With CF3SO2Na: 3a only trace, CF3-DPE-OH adduct 6 detected by GC-MS. With sulfonyl source 4a: 5a 18%, Ts-DPE adduct 8 detected by GC-MS; confirms CF3 and sulfonyl radicals."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "With 2a: 3a yield reduced to 23%, BHT-CF3 adduct 7 detected by GC-MS. With 4a: 5a 25%, BHT-Ts adduct 9 detected; supports radical pathway."}, {"name": "Cyclic voltammetry of 1a, 2a, 4a", "smiles": null, "purpose": "redox_probe", "observation": "E_ox(2a) = 1.16 V and E_ox(4a) = 1.33 V vs SCE, both lower than E_ox(1a) = 1.89–1.90 V vs SCE, indicating triflinate/sulfinate is oxidized first at the anode."}, {"name": "No-electricity control (entry 15)", "smiles": null, "purpose": "other", "observation": "No reaction without applied current, confirming electrochemical initiation."}], "evidence_types_used": ["intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Mechanism is supported by radical trapping with BHT and DPE plus CV showing preferential oxidation of the sulfinate/triflinate over the N-allylamide. No DFT or KIE studies were performed. The cyclization step (II → 3a) is depicted as a polar intramolecular electrophilic O-cyclization promoted by K2CO3."}
